US07807709B2
c. 4-Methoxy-3-(2-methoxy-ethoxymethyl)-benzoic acid ethyl ester
To a solution of 4-bromo-1-methoxy-2-(2-methoxy-ethoxymethyl)-benzene (2.88 g, 10.5 mmol) in absolute THF (30 mL) is added at −70° C. a 1.6N solution of n-butyllithium in hexane (7.20 mL, 11.5 mmol) with stirring. After 40 min, ethyl chloroformate (1.14 g, 10.5 mmol) is added, and the mixture is stirred overnight while gradually warming up to room temperature. The mixture is poured into 2N aqueous HCl, extracted with CH2Cl2, the organic layers are dried (Na2SO4) and concentrated. The crude product is purified by flash chromatography on silica gel (hexane/AcOEt 2:1) to give the title compound as liquid. TLC, Rf (hexane/AcOEt 1:1)=0.13.

reactant | 4-bromo-1-methoxy-2-(2-methoxy-ethoxymethyl)-benzene | 10.5 mmol, 2.88 g | BrC1=CC(=C(C=C1)OC)COCCOC | C11H15BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 11.5 mmol, 7.20 mL | CCCCCC | C6H14
reactant | ethyl chloroformate | 10.5 mmol, 1.14 g | ClC(=O)OCC | C3H5ClO2
reactant | HCl | 2N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-3-(2-methoxy-ethoxymethyl)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OC)COCCOC)=O | C14H20O5
